US09108983B2
Step G: 4-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)-1,3-dimethyl-1H-pyrrole-2-carbonitrile
4-Bromo-1,3-dimethyl-1H-pyrrole-2-carbonitrile (2.03 g, 10.2 mmol) and 4-[(tert-butyldimethylsilyl)oxy]aniline (3.41 g, 15.3 mmol) are dissolved in toluene (40 mL). The solution is degassed with nitrogen for 10 minutes. Sodium tert-butylate (1.18 g, 12.2 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.17 g, 0.41 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.187 g, 0.2 mmol) are then added. The mixture is heated at 100° C. for 30 minutes and then cooled to ambient temperature. Water (50 mL) and Celite (6 g) are added. The suspension is filtered over Celite, and the filtrate is diluted with MTBE. The phases are separated and the aqueous phase is extracted with MTBE (2×50 mL). The combined organic phases are dried over Na2SO4 and filtered. The residue is purified by chromatography over silica gel using ethyl acetate and heptane as eluants followed by reverse-phase chromatography using methanol and water as eluants. The product obtained is lyophilised to provide the expected compound in the form of a solid.

reactant | 4-Bromo-1,3-dimethyl-1H-pyrrole-2-carbonitrile | 10.2 mmol, 2.03 g | BrC=1C(=C(N(C1)C)C#N)C | C7H7BrN2
reactant | 4-[(tert-butyldimethylsilyl)oxy]aniline | 15.3 mmol, 3.41 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.41 mmol, 0.17 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | Water | 50 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.2 mmol, 0.187 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)-1,3-dimethyl-1H-pyrrole-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC=1C(=C(N(C1)C)C#N)C | C19H27N3OSi
